Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Rigors
 
Major Surgical or Invasive Procedure:
None this hospitalization.
 
History of Present Illness:
___ year old man with history of bladder cancer s/p XRT, chemo, 
and immunotherapy who is admitted from the ED with rigors and 
concern for UTI.

Patient has h/o MDR UTI and bacteremia and is currently on 
weekly fosfomycin suppression. He developed increasing fatigue 
over the last ___ days with increasing difficulty sleeping. He 
presented to regularly scheduled ID appointment today. There, he 
developed chills and rigors, with temperature of 99.0. He was 
referred to the ED.

In the ED, initial VS were pain 4, T 98.1, BP 152/71, RR 16, O2 
100%RA. Initial labs were notable for Na 139, K 4.5, HCO3 23, Cr 
1.4. WBC 13.3 (91%N), HCT 36.1, PLT 280, INR 1.1, lactate 1.0. 
UA with 34 WBC, 8 RBC, few bacteria, nitrate negative. Patient 
was given IV Zofran for nausea, 5mg po oxycodone, and 1g 
Tylenol. VS prior to transfer were pain 4, T 98.7, HR 100, BP 
130/66, RR 18, O2 100%RA.

On arrival to the floor, patient reports fatigue as above. He 
denies fevers at home, but did have chills last night. No recent 
URTI. No CP, SOB or cough. He was nauseous in the ED, but this 
has resolved. No diarrhea. No new rashes or joint pains. No URTI 
symptoms, although has some bilateral conjunctivitis. His 
cystosomy is putting out clear yellow urine, although it was 
foul smelling a few weeks ago. He also notes chronic, mid lower 
back pain without radiation up to ___, worse over the last few 
days. He has chronic shoulder stiffness that is improving and 
bilateral knee arthritis. Of note, he had CT torso done today in 
clinic which did not show any significant new findings. He has 
had prior MDR UTI with bacteremia treated with meropenem.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
Mr. ___ has a ___ year history of chronic self catheterization 
secondary to injury from agent orange exposure. About 2 or ___ 
years ago, he began developing hematuria, including large clots 
that would block his catheter. He saw his urologist and reports 
a normal report.  
- In ___ or ___, however, he developed very 
heavy hematuria while residing in ___. He underwent CT 
imaging which revealed a 6 cm mass in the bladder, with biopsy 
confirming bladder carcinoma. 
- He returned to ___ at the end of ___ and was seen 
by urology with radical cystoprostatectomy on ___ notable 
for 6.5 x 3.5 x 3.0cm high grade urothelial ca, a separate focus 
of papillary transitional cell, and right lobe of prostate 
___ 3+4 prostate cancer, with 2 positive lymph nodes (right 
obturator lymph node, left obturator lymph node).  
- ___ and was found to have a MDR E.Coli UTI and was treated 
with a 10 day course of IV antibiotics. During this admission, 
CT A&P revealed an abnormal left pelvic sidewall soft tissue, 
potentially evidence of metastatic disease.  He also had biopsy 
of a paraesophageal node which was consistent with metastatic 
bladder cancer. 
- ___: C1D1 Gemcitabine/Cisplatin.
- ___: Cycle interrupeted on ___ due to UTI and sepsis.
- ___: Admitted with sepsis a and UTI with EColi.
- ___: Day ___ of XRT to pelvic sidewall.
- ___: C1D1 Pembrolizumab ___ose.
- ___: Admission with fever, UCx negative.
- ___: Admission with fever, diffuse myalgia, UCx negative.
 
PAST MEDICAL HISTORY: 
- Agent orange exposure 
- Hypertension
- Dyslipidemia
- DM
- Recurrent urosepsis
- Hydronephrosis on left - had a nephrostomy tube back in 
___
 
Social History:
___
Family History:
His parents died of cancer of unknown primary.
 
Physical Exam:
========================
Admission Physical Exam:
========================
VS: Temp 98.6, HR 78, BP 132/70, RR 18, O2 sat 96% RA.
GENERAL: Pleasant, lying in bed comfortably.
EYES: Anicteric sclerea, PERLL, EOMI. 
ENT: Oropharynx clear without lesion, JVD not elevated.
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or 
gallops; 2+ radial pulses, 2+ DP pulses.
RESPIRATORY: Appears in no respiratory distress, clear to 
auscultation bilaterally, no crackles, wheezes, or rhonchi.
GASTROINTESTINAL: Normal bowel sounds; nondistended; soft, 
nontender without rebound or guarding; no hepatomegaly, no 
splenomegaly. Cystostomy putting out clear yellow urine.
MUSKULOSKELATAL: Warm, well perfused extremities without lower 
extremity edema; Normal bulk.
NEURO: Alert, oriented, CN III-XII intact, motor and sensory 
function grossly intact.
SKIN: No significant rashes.

========================
Discharge Physical Exam:
========================
VS: Temp 97.9, BP 140/49, HR 67, RR 16, O2 sat 100% RA.
Exam otherwise unchanged.
 
Pertinent Results:
===============
Admission Labs:
===============
___ 06:00PM BLOOD WBC-13.3* RBC-4.28* Hgb-11.2* Hct-36.1* 
MCV-84 MCH-26.2 MCHC-31.0* RDW-14.2 RDWSD-43.7 Plt ___
___ 06:00PM BLOOD Neuts-91.3* Lymphs-2.8* Monos-4.2* 
Eos-1.0 Baso-0.4 Im ___ AbsNeut-12.14*# AbsLymp-0.37* 
AbsMono-0.56 AbsEos-0.13 AbsBaso-0.05
___ 06:00PM BLOOD ___ PTT-29.1 ___
___ 06:00PM BLOOD Glucose-144* UreaN-33* Creat-1.4* Na-139 
K-4.5 Cl-101 HCO3-23 AnGap-15
___ 06:00PM BLOOD ALT-15 AST-9 AlkPhos-90 TotBili-0.2
___ 06:00PM BLOOD Albumin-4.2
___ 06:00PM BLOOD Lactate-1.0

===============
Discharge Labs:
===============
___ 07:15AM BLOOD WBC-7.8 RBC-4.05* Hgb-10.5* Hct-35.0* 
MCV-86 MCH-25.9* MCHC-30.0* RDW-14.2 RDWSD-45.5 Plt ___
___ 07:15AM BLOOD Glucose-202* UreaN-46* Creat-1.6* Na-144 
K-4.6 Cl-103 HCO3-28 AnGap-13
___ 07:15AM BLOOD Calcium-9.3 Phos-3.2 Mg-2.2

=============
Microbiology:
=============
___ Blood Culture x 2 - Pending

___ Urine Culture - E. Coli
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------       R
CEFTAZIDIME-----------  =>64 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

========
Imaging:
========
CT Chest w/ Contrast ___
1. No evidence of active intrathoracic malignancy, including 
several tiny lung nodules stable since ___ at and probably 
___.
2. Considerable atherosclerotic coronary calcification.
3. Mild aortic valvular calcification, hemodynamic significance 
uncertain.

CT Abdomen/Pelvis w/ Contrast ___
1. Similar appearance of left pelvic sidewall mass possible only 
nodal in nature.
2. New left para-aortic small volume lymphadenopathy.
3. Postsurgical change of cystectomy and ileal conduit.
 
Brief Hospital Course:
Mr. ___ is a ___ male with history of bladder 
cancer s/p XRT, chemo, and immunotherapy as well as recurrent 
MDR UTIs on suppressive weekly fosfomycin who is admitted from 
the ED with rigors found to have E. coli UTI.

# E. Coli Urinary Tract Infection: Patient presented with newly 
elevated WBC and rigors in clinic concerning for acute 
infection. He was started on broad-spectrum antibiotics. His 
leukocytosis resolved, he had no fevers, and he felt well. He 
was found to have an E. coli urinary tract infection which was 
sensitive to Bactrim. Discharged home to complete 7-day course 
of Bactrim after discussion with Dr. ___ ID 
attending). Fosfomycin sensitivities were sent and Dr. ___ 
___ follow-up results with patient.

# Cancer-Related Back and Shoulder Pain: Shoulder pain worsened 
following pembrolizumab. Thought to be side effect from 
immunotherapy. Underwent local steroid joint injection in 
___ clinic on ___ with good improvement. Pain 
controlled with oxycodone.

# Hypertension:
# Hyperlipidemia: Continued home amlodipine. Continue home ASA 
and atorvastatin.

# Type II Diabetes: Continued home lantus. Held home glipizide 
and restarted at time of discharge.

# Chronic Stage III Kidney Disease. He is at his recent baseline 
Cr of 1.4-1.6. His potassium was slightly elevated and improved 
with IV fluids. 

# Metastatic Bladder Cancer: Has metastatic disease to pelvic 
sidewall and obturator lymph nodes. Did have imaging response to 
his pembrolizumab, but treatment has been held given his side 
effects from treatment. CT scan on ___ with relatively stable 
disease. He will follow-up with Dr. ___. He will likely 
continue surveillance imaging, no plan for further immunotherapy 
currently.

# Anemia: Stable. Likely secondary to malignancy. No evidence of 
active bleeding.

# BILLING: 50 minutes were spent in preparation of discharge 
summary and coordination of outpatient providers.

====================
Transitional Issues:
====================
- Patient found to have E. coli urinary tract infection 
sensitive to Bactrim. Patient discharged to complete a 7-day 
course of Bactrim (Day 1 ___, to be completed ___.
- Please follow-up fosfomycin sensitivity testing from urine 
culture on ___.
- Please follow-up pending blood cultures from ___.
- Please ensure follow-up with Oncology and Infectious Disease.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Docusate Sodium 100 mg PO BID:PRN constipation 
5. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
6. OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. Senna 17.2 mg PO BID:PRN constipation 
9. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
10. Fosfomycin Tromethamine 3 g PO 1X/WEEK (WE) 
11. GlipiZIDE 5 mg PO BID 
12. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting 
13. Glargine 20 Units Bedtime
 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
Plan for 7-day course (Day 1 ___, to be completed 
___. 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg Take 1 tablet by 
mouth twice daily. Disp #*11 Tablet Refills:*0 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
3.  amLODIPine 5 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  Docusate Sodium 100 mg PO BID:PRN constipation  
7.  GlipiZIDE 5 mg PO BID  
8.  Glargine 20 Units Bedtime 
9.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  
10.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate  
11.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
12.  Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting  
13.  Senna 17.2 mg PO BID:PRN constipation  
14. HELD- Fosfomycin Tromethamine 3 g PO 1X/WEEK (WE)  This 
medication was held. Do not restart Fosfomycin Tromethamine 
until your are finished with Bactrim and discuss with Dr. ___.
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Primary Diagnosis:
- E. Coli Urinary Tract Infection
- Cancer-Related Back and Shoulder Pain
- Chronic Stage III Kidney Disease
- Metastatic Bladder Cancer
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. You were admitted to the hospital 
because you were having rigors and felt unwell.

You were found to have a urinary tract infection. Luckily, the 
bacteria that was growing E. coli was sensitive to Bactrim which 
is an oral antibiotic. Please take your first dose of Bactrim 
tonight.

Please hold your fosfomycin while you are on Bactrim. You can 
restart the fosfomycin after you finish your course of Bactrim. 
Please also expect a call from Dr. ___ using the 
fosfomycin in the future.

Please continue your prior home medications.

All the best,
Your ___ Team
 
Followup Instructions:
___